US09422293B2
Step A. 4-Hydroxy-2-methylsulfanyl-5,6,8,9-tetrahydro-pyrimido[4,5-d]azepine-7-carboxylic acid tert-butyl ester
To solution of 5-oxo-azepane-1,4-dicarboxylic acid 1-tert-butyl ester 4-ethyl ester (10.5 g, 0.04 mol) in EtOH (168 mL) was added NaOEt (8.1 g, 0.12 mol) and thiourea (4.2 g, 0.06 mol). The mixture was heated at reflux for 12 h. The mixture was cooled, treated with MeI (3.0 mL, 0.05 mol) drop-wise, and stirred at rt for 1 h. The mixture was concentrated and the residue was dissolved in water and acidified to pH=7 with HOAc (a precipitate formed). The solid was filtered to give the title compound (8.4 g, 73%), which was used in the next step without further purification.

reactant | 5-oxo-azepane-1,4-dicarboxylic acid 1-tert-butyl ester 4-ethyl ester | 0.04 mol, 10.5 g | C(C)OC(=O)C1CCN(CCC1=O)C(=O)OC(C)(C)C | C14H23NO5
reactant | NaOEt | 0.12 mol, 8.1 g | CC[O-].[Na+]
reactant | thiourea | 0.06 mol, 4.2 g | NC(=S)N | CH4N2S
reactant | MeI | 0.05 mol, 3.0 mL | CI | CH3I
solvent | EtOH | 168 mL | CCO | C2H6O
product | 4-Hydroxy-2-methylsulfanyl-5,6,8,9-tetrahydro-pyrimido[4,5-d]azepine-7-carboxylic acid tert-butyl ester | 8.4 g, 73% | C(C)(C)(C)OC(=O)N1CCC2=C(CC1)C(=NC(=N2)SC)O | C14H21N3O3S
